US08404709B2
8-(3-Acetyl-5-ethoxy-2-methyl-1,4-dihydro-1,6-naphthyridin-4-yl)-2-methyl-4H-chromen-4-one
60 mg (0.16 mmol) of 3-acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-4,6-dihydro-1,6-naphthyridin-5(1H)-one are suspended in THF (4 ml), and 0.18 ml (0.18 mmol) of N′″-(tert-butyl)-N,N′,N″-tris[tris(dimethylamino)phosphoranylidene]phosphorimide triamide (phosphazene base P4-t-Bu; 1 M in hexane) is added. Then 25 μl (0.199 mmol) of ethyl trifluoromethanesulfonate are added to the dark red solution. The decolorized solution is stirred for 10 min and then mixed with methanol and concentrated. The residue is purified by preparative HPLC to result in 35 mg (54% of theory) of the title compound as a white solid.

reactant | 3-acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-4,6-dihydro-1,6-naphthyridin-5(1H)-one | 0.16 mmol, 60 mg | C(C)(=O)C1=C(NC=2C=CNC(C2C1C=1C=CC=C2C(C=C(OC12)C)=O)=O)C | C21H18N2O4
reactant | ethyl trifluoromethanesulfonate | 0.199 mmol, 25 μl | FC(S(=O)(=O)OCC)(F)F | C3H5F3O3S
reactant | methanol | CO | CH4O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 8-(3-Acetyl-5-ethoxy-2-methyl-1,4-dihydro-1,6-naphthyridin-4-yl)-2-methyl-4H-chromen-4-one | C(C)(=O)C1=C(NC2=CC=NC(=C2C1C=1C=CC=C2C(C=C(OC12)C)=O)OCC)C | C23H22N2O4
